US06979741B2
(3R)-Anthracen-9-yl-[3-(morpholine-4-carbonyl)-[1,4′]bipiperidinyl-1′-yl]-methanone
The crude (3R)-1′-(anthracene-9-carbonyl)-[1,4′]bipiperidinyl-3-carboxylic acid as prepared above (approx 22 mmol) was heated under reflux in a mixture of chloroform (75 mL, Aldrich, amylenes-stabilized) and thionyl chloride (10 mL, 0.137 mmol) until all the solid had dissolved. The mixture was diluted with toluene, evaporated to dryness under vacuum and anhydrous dichloromethane (40 mL) added. A mixture of morpholine (21 mmol, 1.81 mL) and triethylamine (62 mmol, 8.7 mL) in anhydrous dichloromethane (40 mL) was added and the solution was stirred for 16 hr at ambient temperature. The mixture was washed with ice-cold 0.1M sodium hydroxide solution, dried over anhydrous sodium sulfate, diluted with toluene and evaporated to dryness. The residue was purified by chromatography on 240 g silica gel eluting with a 4%-7%-10% methanol-dichloromethane gradient to give the title compound as a pale yellow glassy foam.

reactant | (3R)-1′-(anthracene-9-carbonyl)-[1,4′]bipiperidinyl-3-carboxylic acid | C1=CC=CC2=CC3=CC=CC=C3C(=C12)C(=O)N1CCC(CC1)N1C[C@@H](CCC1)C(=O)O | C26H28N2O3
reactant | thionyl chloride | 0.137 mmol, 10 mL | S(=O)(Cl)Cl | Cl2OS
reactant | morpholine | 21 mmol, 1.81 mL | N1CCOCC1 | C4H9NO
reactant | triethylamine | 62 mmol, 8.7 mL | C(C)N(CC)CC | C6H15N
solvent | chloroform | 75 mL | C(Cl)(Cl)Cl | CHCl3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | (3R)-Anthracen-9-yl-[3-(morpholine-4-carbonyl)-[1,4′]bipiperidinyl-1′-yl]-methanone | C1=CC=CC2=CC3=CC=CC=C3C(=C12)C(=O)N1CCC(CC1)N1C[C@@H](CCC1)C(=O)N1CCOCC1 | C30H35N3O3
